US08076516B2
Protection of 4-(3-(3-amino-1-hydroxypropyl)phenethyl)heptan-4-ol using (Boc)2O following the method described in Example 17 gives tert-butyl 3-hydroxy-3-(3-(3-hydroxy-3-propylhexyl)phenyl)propylcarbamate.

reactant | 4-(3-(3-amino-1-hydroxypropyl)phenethyl)heptan-4-ol | NCCC(O)C=1C=C(CCC(CCC)(CCC)O)C=CC1 | C18H31NO2
reactant | (Boc)2O | CC(C)(C)OC(=O)OC(=O)OC(C)(C)C | C10H18O5
product | tert-butyl 3-hydroxy-3-(3-(3-hydroxy-3-propylhexyl)phenyl)propylcarbamate | OC(CCNC(OC(C)(C)C)=O)C1=CC(=CC=C1)CCC(CCC)(CCC)O | C23H39NO4
